US04337267
66.45 g of 4-phenoxybutylmalonic acid ethyl ester, 45 ml of pyridine, 3 ml of piperidine and 9.9 g of paraformaldehyde are stirred together at 50° C. for 4 hours. After cooling, 400 ml of water are added to the reaction mixture which is then acidified with half-concentrated hydrochloric acid, while cooling with ice. The reaction mixture is then extracted 3 times with 200 ml of diethyl ether each time, the combined organic phases are concentrated and distilled in vacuo. 43.6 g 2-methylene-6-phenoxyhexanoic acid ethyl ester are obtained as a colorless liquid of b.p. 140° C. under 0.06 mm Hg (9 Pa).

reactant | 4-phenoxybutylmalonic acid ethyl ester | 66.45 g | C(C)OC(C(C(=O)O)CCCCOC1=CC=CC=C1)=O | C15H20O5
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 9.9 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 400 ml | O | H2O
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
product | 2-methylene-6-phenoxyhexanoic acid ethyl ester | 43.6 g | C(C)OC(C(CCCCOC1=CC=CC=C1)=C)=O | C15H20O3
